US08404841B2
Preparation 2-((4R,6S)-6-formyl-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropyl acetamide (Formula-3a)
1 gram of potassium bromide and 0.1 gram of 2,2,6,6-tetramethyl-1-piperidinyloxy free radical is added to the a solution of 25 grams of 2-((4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropylacetamide in methylene chloride at 0-5° C. Added sodium hypochlorite to the above reaction mixture at 0-5° C. in 1 hour. Stirred the reaction for 30 minutes at 0-5° C. Quenched the reaction mixture with 10% sodium thio sulphate solution. Separated the organic and inorganic phases. Washed the organic layer with water. Dried the organic layer over sodium sulfate. Distilled the solvent completely under reduced pressure to get the title compound.

reactant | potassium bromide | 1 gram | [Br-].[K+]
reactant | 2-((4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropylacetamide | 25 grams | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C(C)C)C(C)C | C15H29NO4
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-((4R,6S)-6-formyl-2,2-dimethyl-1,3-dioxan-4-yl)-N,N-diisopropyl acetamide | C(=O)[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C(C)C)C(C)C | C15H27NO4
